US04474692
By reacting 7 g of N-(indan-2-yl)-β-alanine ethyl ester hydrochloride with 7 g of N-carbobenzoxy-L-alanine and treating the reaction mixture as in Reference Example 4, there is obtained 5 g of L-alanyl-N-(indan-2-yl)-β-alanine. Melting point 205°-206° C.

reactant | N-(indan-2-yl)-β-alanine ethyl ester hydrochloride | 7 g | Cl.C(C)OC(CCNC1CC2=CC=CC=C2C1)=O
reactant | N-carbobenzoxy-L-alanine | 7 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
product | L-alanyl-N-(indan-2-yl)-β-alanine | 5 g | N[C@@H](C)C(=O)N(CCC(=O)O)C1CC2=CC=CC=C2C1 | C15H20N2O3
